US05130430
To a solution of Diethyl nitroterephthalate (17.9 g) in 300 mL ethanol was added 1N NaOH (70 mL) and stirred overnight. 1N HCl (70 mL) was added and the reaction was partitioned between methylene chloride (200 mL) and water (200 mL). The aqueous layer was extracted an additional three times. The combined organic extracts were dried and the solvent removed in vacuo to afford Ethyl-3-nitro-4-carboxybenzoate as a white solid.

reactant | Diethyl nitroterephthalate | 17.9 g | [N+](=O)([O-])C1=C(C(=O)OCC)C=CC(=C1)C(=O)OCC | C12H13NO6
reactant | NaOH | 1N, 70 mL | [OH-].[Na+]
reactant | HCl | 1N, 70 mL | Cl | ClH
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | Ethyl-3-nitro-4-carboxybenzoate | C(C)OC(C1=CC(=C(C=C1)C(=O)O)[N+](=O)[O-])=O | C10H9NO6
